US04092150
To a stirred solution of 0.8 gram of sodium methoxide in 100 ml of methanol was added portionwise 4.2 grams of 4-chloro-2-(1-cyano-1-methylethylamino)-6-cyclopropylamino-5-pyrimidinecarbonitrile. Upon complete addition, the reaction mixture was heated under reflux for 3.5 hours, then allowed to stand at room temperature for 16 hours. The methanol was removed by evaporation under reduced pressure. The residue was extracted with a mixture of water and methylene chloride. The methylene chloride layer was separated and dried over magnesium sulfate. The mixture was filtered, and the filtrate was evaporated under reduced pressure. The residue was recrystallized twice from carbon tetrachloride to give 2.4 grams of 2-(1-cyano-1-methylethylamino)-6-cyclopropylamino-4-methoxy-5-pyrimidinecarbonitrile; mp, 138°-140°.

reactant | sodium methoxide | 0.8 gram | C[O-].[Na+]
reactant | 4-chloro-2-(1-cyano-1-methylethylamino)-6-cyclopropylamino-5-pyrimidinecarbonitrile | 4.2 grams | ClC1=NC(=NC(=C1C#N)NC1CC1)NC(C)(C)C#N | C12H13ClN6
solvent | methanol | 100 ml | CO | CH4O
product | 2-(1-cyano-1-methylethylamino)-6-cyclopropylamino-4-methoxy-5-pyrimidinecarbonitrile | 2.4 grams | C(#N)C(C)(C)NC1=NC(=C(C(=N1)OC)C#N)NC1CC1 | C13H16N6O
